US06831080B2
Step A: 2,2,2-Trifluoro-1-(3-nitro-phenyl)ethanone oxime
A mixture of 2,2,2-trifluoro-1-(3-nitro-phenyl)ethanone (4 g), NH2OH.HCl (5.037 g), and Et3N (20.44 g) in EtOH (80 mL) was refluxed for 4 days. After concentration, the residue was extracted with CH2Cl2. The organic layer was washed with water and dried over MgSO4. The crude product was purified by silica gel flash chromatography (30% ethyl acetate in hexanes) to give the title compound (3.4 g) as a solid.

reactant | 2,2,2-trifluoro-1-(3-nitro-phenyl)ethanone | 4 g | FC(C(=O)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C8H4F3NO3
reactant | NH2OH.HCl | 5.037 g | NO.Cl
reactant | Et3N | 20.44 g | CCN(CC)CC | C6H15N
solvent | EtOH | 80 mL | CCO | C2H6O
product | 2,2,2-Trifluoro-1-(3-nitro-phenyl)ethanone oxime | 3.4 g | FC(C(=NO)C1=CC(=CC=C1)[N+](=O)[O-])(F)F | C8H5F3N2O3
